US04267176
To 7-[2-(4-formamidopyrimidin-2-yl)-2-phenoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer) (1.7 g) was added formic acid (17 ml) and the solution was stirred at ambient temperature for 4 hours. After the reaction mixture was evaporated, the residue was pulverized with ethyl acetate to give a brown powder (1.5 g) of formic acid salt of 7-[2-(4-formamidopyrimidin-2-yl)-2-phenoxyiminoacetamido]-3-[1-(2-aminoethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer).

reactant | 7-[2-(4-formamidopyrimidin-2-yl)-2-phenoxyiminoacetamido]-3-[1-(2-tert-butoxycarbonylaminoethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 1.7 g | C(=O)NC1=NC(=NC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCNC(=O)OC(C)(C)C)SC2=NN=NN2)C(=O)O)C1=O)=NOC1=CC=CC=C1 | C29H31N11O8S2
solvent | formic acid | 17 ml | C(=O)O | CH2O2
product | 7-[2-(4-formamidopyrimidin-2-yl)-2-phenoxyiminoacetamido]-3-[1-(2-aminoethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | C(=O)NC1=NC(=NC=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCN)SC2=NN=NN2)C(=O)O)C1=O)=NOC1=CC=CC=C1 | C24H23N11O6S2
